US07576108B2
c: (Z)-2-Bromo-3-cyclopentyl-acrylic acid ethyl ester
Following the method of example 54b, reaction of (E)-3-cyclopentyl-acrylic acid ethyl ester (87 g, 520 mmol) with bromine (29.3 ml, 572 mmol) and triethylamine (90 ml, 650 mmol) affords the title product as an oil (83.5 g) GC-MS (m/e): 247 (M+).

reactant | (E)-3-cyclopentyl-acrylic acid ethyl ester | 520 mmol, 87 g | C(C)OC(\C=C\C1CCCC1)=O | C10H16O2
reactant | bromine | 572 mmol, 29.3 ml | BrBr | Br2
reactant | triethylamine | 650 mmol, 90 ml | C(C)N(CC)CC | C6H15N
product | (Z)-2-Bromo-3-cyclopentyl-acrylic acid ethyl ester | 83.5 g | C(C)OC(/C(=C/C1CCCC1)/Br)=O | C10H15BrO2
